US06951879B2
In analogy to example 37.5 and 37.6, 3-Butyn-2-ol and N-(Methoxyethyl)methylamine were converted to yield (2-Methoxy-ethyl)-methyl-(1-methyl-prop-2-ynyl)-amine as colorless oil, MS: 141 (M).

reactant | 3-Butyn-2-ol | CC(C#C)O | C4H6O
reactant | N-(Methoxyethyl)methylamine | COCCNC | C4H11NO
product | (2-Methoxy-ethyl)-methyl-(1-methyl-prop-2-ynyl)-amine | COCCN(C(C#C)C)C | C8H15NO
